US08877760B2
A mixture of (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)-3-phenylpropanamide (128 mg, 0.424 mmol), 6-aminoquinoline (80 mg, 0.555 mmol), K2CO3 (100 mg, 0.724 mmol), BINAP (30 mg, 0.048 mmol) and Pd(OAc)2 (15 mg, 0.066 mmol) in dioxane (3 mL) was degassed with Ar, then was stirred at 110 C for 20 h. The mixture was concentrated in vacuo. The residue was purified by HPLC to give (R)-2-(5-cyano-6-(quinolin-6-ylamino)pyrazin-2-ylamino)-3-phenylpropanamide (21 mg).

reactant | (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)-3-phenylpropanamide | 0.424 mmol, 128 mg | ClC1=C(N=CC(=N1)N[C@@H](C(=O)N)CC1=CC=CC=C1)C#N | C14H12ClN5O
reactant | 6-aminoquinoline | 0.555 mmol, 80 mg | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
reactant | K2CO3 | 0.724 mmol, 100 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | BINAP | 0.048 mmol, 30 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.066 mmol, 15 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (R)-2-(5-cyano-6-(quinolin-6-ylamino)pyrazin-2-ylamino)-3-phenylpropanamide | 21 mg | C(#N)C=1N=CC(=NC1NC=1C=C2C=CC=NC2=CC1)N[C@@H](C(=O)N)CC1=CC=CC=C1 | C23H19N7O
